US09403846B2
Step 4. Synthesis of [2-(2,2-diethoxyethoxyl)pent-4-en-1-yl]cyclopropane (C66)
A solution of 1-cyclopropylpent-4-en-2-ol (C65) (16 g, 0.127 mmol) in tetrahydrofuran (200 mL) was added to a 0° C. suspension of sodium hydride (60% in mineral oil, 15.2 g, 0.38 mol) in tetrahydrofuran (400 mL). After stirring at room temperature for 10 minutes, 2-bromo-1,1-diethoxyethane (97%, 75 g, 0.38 mol) was added drop-wise at room temperature. The reaction mixture was heated to 70° C. for 24 hours. It was then cooled to 0° C., slowly quenched with water (200 mL) and extracted with dichloromethane (3×500 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo; purification via silica gel chromatography (Gradient: 0% to 10% ethyl acetate in petroleum ether) afforded the product as a yellow oil. Yield: 20 g, 83 mmol, 65%. 1H NMR (400 MHz, CDCl3) δ 5.79-5.89 (m, 1H), 5.04 (dt, J=14.0, 1.6 Hz, 2H), 4.60 (t, J=5.2 Hz, 1H), 3.64-3.73 (m, 2H), 3.51-3.62 (m, 4H), 3.45 (quintet, J=6.0 Hz, 1H), 2.31 (t, J=6.4 Hz, 1H), 1.50 (quintet, J=6.8 Hz, 1H), 1.20-1.30 (m, 2H), 1.21 (dt, J=6.8, 1.2 Hz, 6H), 0.72-0.80 (m, 1H), 0.38-0.49 (m, 2H), −0.02-0.10 (m, 2H).

reactant | 1-cyclopropylpent-4-en-2-ol | 0.127 mmol, 16 g | C1(CC1)CC(CC=C)O | C8H14O
reactant | sodium hydride | 0.38 mol, 15.2 g | [H-].[Na+]
reactant | 2-bromo-1,1-diethoxyethane | 0.38 mol, 75 g | BrCC(OCC)OCC | C6H13BrO2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | [2-(2,2-diethoxyethoxyl)pent-4-en-1-yl]cyclopropane | C(C)OC(COC(CC1CC1)CC=C)OCC | C14H26O3
